US04316907
(d) 5-[1-Hydroxy-2-[(1-methyl-3-phenylpropyl)amino]propyl]thiophene-3-carboxamide hydrochloride
An ice-cold solution of 5-[2-[(1-methyl-3-phenylpropyl)imino]-1-oxopropyl]thiophene-3-carboxamide (0.7 g) in methanol (50 ml) was treated portionwise with sodium borohydride (0.76 g), stirred at 0° for 1 h, poured onto ice, acidified with dilute hydrochloric acid (2 N), neutralised with aqueous sodium bicarbonate (8%), and extracted with ethyl acetate (2×300 ml). The extract was washed with brine (50 ml) and evaporated to a small volume (ca. 20 ml) to deposit a fine white solid (0.47 g) which was partitioned between ethyl acetate (2×300 ml) and aqueous sodium bicarbonate (1 M; 100 ml). The organic solution (MgSO4) was dried and evaporated to give an off-white foam which was dissolved in ethyl acetate (ca. 100 ml) and treated with ethereal hydrogen chloride to precipitate the title compound (0.42 g) m.p. 125°-130°. TLC SiO2 (3% Et3N/20% i-PrOH/EtOAc) Rf 0.22 and 0.27.

reactant | 5-[2-[(1-methyl-3-phenylpropyl)imino]-1-oxopropyl]thiophene-3-carboxamide | 0.7 g | CC(CCC1=CC=CC=C1)N=C(C(=O)C1=CC(=CS1)C(=O)N)C | C18H20N2O2S
reactant | sodium borohydride | 0.76 g | [BH4-].[Na+]
reactant | hydrochloric acid | 2 N | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methanol | 50 ml | CO | CH4O
solvent | ethyl acetate | ca. 100 ml | C(C)(=O)OCC | C4H8O2
product | 5-[1-Hydroxy-2-[(1-methyl-3-phenylpropyl)amino]propyl]thiophene-3-carboxamide hydrochloride | Cl.OC(C(C)NC(CCC1=CC=CC=C1)C)C1=CC(=CS1)C(=O)N | InChI=1S/C18H24N2O2S.ClH/c1-12(8-9-14-6-4-3-5-7-14)20-13(2)17(21)16-10-15(11-23-16)18(19)22;/h3-7,10-13,17,20-21H,8-9H2,1-2H3,(H2,19,22);1H
